US09212182B2
A vial was charged with perfluorophenyl 1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (0.140 g, 0.224 mmol), 2-amino-1,3,4-thiadiazole (0.027 g, 0.268 mmol), and cesium carbonate (0.219 g, 0.671 mmol). The vial was flushed with Ar (g), then acetonitrile (2.2 mL) was added. The reaction was stirred overnight at RT. The mixture was diluted with EtOAc and NH4Cl (sat.). The layers were separated, and the aqueous layer was extracted with EtOAc (2×). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (25-g SNAP Ultra column, 0-50% EtOAc/Heptane) to give 125 mgs of 1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-N-(1,3,4-thiadiazol-2-yl)-1,2-dihydroquinoline-6-sulfonamide as an off-white solid. This material was purified by chiral SFC on Chiralpak AS-H column (40% MeOH/60% CO2) to give (P)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-N-(1,3,4-thiadiazol-2-yl)-1,2-dihydroquinoline-6-sulfonamide as peak 1 and (M)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-N-(1,3,4-thiadiazol-2-yl)-1,2-dihydroquinoline-6-sulfonamide as peak 2, both as off-white solids. Data for peak 1: NMR (400 MHz, DMSO-d6) δ=14.36 (br. s., 1H), 8.77 (s, 1H), 8.31 (d, J=2.15 Hz, 1H); 8.24 (d, J=9.59 Hz, 1H), 7.84 (dd, J=2.15, 8.90 Hz, 1H), 7.68 (s, 1H), 7.60 (dt, J=6.36, 8.07 Hz, 1H), 7.41-7.48 (m, 2H), 7.36 (s, 1H), 7.29-7.34 (m, 1H), 6.78-6.85 (m, 2H), 3.74 (s, 3H). m/z (ESI) 544.0 (M+H)+. Data for peak 2: 1H NMR (400 MHz, DMSO-d6) δ=14.36 (br. s., 1H), 8.77 (s, 1H), 8.31 (d, J=2.25 Hz, 1H), 8.24 (d, J=9.49 Hz, 1H); 7.84 (dd, J=2.20, 8.95 Hz, 1H), 7.68 (s, 1H), 7.59 (dt, J=6.36, 8.07 Hz, 1H), 7.41-7.48 (m, 2H), 7.36 (s, 1H), 7.30-7.35 (m, 1H), 6.81 (dd, J=6.80, 9.24 Hz, 2H), 3.74 (s, 3H). m/z (ESI) 544.0 (M+H)+.

reactant | perfluorophenyl 1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 0.224 mmol, 0.140 g | ClC1=C(C=C(C(=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC)C1=CC(=CC=C1)F | C28H14ClF6NO5S
reactant | 2-amino-1,3,4-thiadiazole | 0.268 mmol, 0.027 g | NC=1SC=NN1 | C2H3N3S
reactant | cesium carbonate | 0.671 mmol, 0.219 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-N-(1,3,4-thiadiazol-2-yl)-1,2-dihydroquinoline-6-sulfonamide | 125 mgs | ClC1=C(C=C(C(=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC=1SC=NN1)=O)OC)C1=CC(=CC=C1)F | C24H16ClFN4O4S2
